* Copyright © Linear Technology Corp. 2004.  All rights reserved.
*
.subckt LT1521-3.3 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N005 0 NP temp=27
C1 N002 N003 12p Rser=40K
Q4 N003 N003 N004 0 NP 10 temp=27
R2 N004 3 5K
R3 N005 3 6K
C2 1 N003 20p Rser=2K
Q5 1 2 N006 0 FB temp=27
R6 N006 N004 206.5K
I1 8 5 1.9µ load
G2 8 N003 N008 3 2.33µ
G1 8 N002 N008 3 2.33µ
R1 8 N001 450K
R8 N009 1 .7
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 8m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
G5 N010 0 N008 3 table(0 3m 1 0)
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.95 Vh=1m trise=2m
D2 5 3 A
D4 3 5 B
C4 8 N002 1p Rser=.8G
C6 2 3 10p
G4 0 N010 8 3 table(2.1 3m 10 3.6m)
C8 8 N003 500p Rser=.42G Rpar=8.6G
.model PN PNP(BF=25 Cje=500p Cjc=500p TF=20n)
.model NA NPN(BF=500K Cje=.1p Cjc=.1p Re=40)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.1)
.model B D(Ron=3 Vrev=7.05 Vfwd=.6)
.ends LT1521-3.3
*
.subckt LT1521-3 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N005 0 NP temp=27
C1 N002 N003 12p Rser=40K
Q4 N003 N003 N004 0 NP 10 temp=27
R2 N004 3 5K
R3 N005 3 6K
C2 1 N003 20p Rser=2K
Q5 1 2 N006 0 FB temp=27
R6 N006 N004 182K
I1 8 5 1.9µ load
G2 8 N003 N008 3 2.33µ
G1 8 N002 N008 3 2.33µ
R1 8 N001 450K
R8 N009 1 .7
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 8m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
G5 N010 0 N008 3 table(0 3m 1 0)
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.95 Vh=1m trise=2m
D2 5 3 A
D4 3 5 B
C4 8 N002 1p Rser=.8G
C6 2 3 10p
G4 0 N010 8 3 table(2.1 3m 10 3.6m)
C8 8 N003 500p Rser=.42G Rpar=8.6G
.model PN PNP(BF=25 Cje=500p Cjc=500p TF=20n)
.model NA NPN(BF=500K Cje=.1p Cjc=.1p Re=40)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.1)
.model B D(Ron=3 Vrev=7.05 Vfwd=.6)
.ends LT1521-3
*
.subckt LT1521-5 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N005 0 NP temp=27
C1 N002 N003 12p Rser=40K
Q4 N003 N003 N004 0 NP 10 temp=27
R2 N004 3 5K
R3 N005 3 6K
C2 1 N003 20p Rser=2K
Q5 1 2 N006 0 FB temp=27
R6 N006 N004 344K
I1 8 5 1.9µ load
G2 8 N003 N008 3 2.33µ
G1 8 N002 N008 3 2.33µ
R1 8 N001 450K
R8 N009 1 .7
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 8m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
G5 N010 0 N008 3 table(0 3m 1 0)
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.95 Vh=1m trise=2m
D2 5 3 A
D4 3 5 B
C4 8 N002 1p Rser=.8G
C6 2 3 10p
G4 0 N010 8 3 table(2.1 3m 10 3.6m)
C8 8 N003 500p Rser=.42G Rpar=8.6G
.model PN PNP(BF=25 Cje=500p Cjc=500p TF=20n)
.model NA NPN(BF=500K Cje=.1p Cjc=.1p Re=40)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.1)
.model B D(Ron=3 Vrev=7.05 Vfwd=.6)
.ends LT1521-5
*
.subckt LT1521 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N005 0 NP temp=27
C1 N002 N003 12p Rser=40K
Q4 N003 N003 N004 0 NP 10 temp=27
R2 N004 3 5K
R3 N005 3 6K
C2 1 N003 20p Rser=2K
Q5 1 2 N006 0 FB temp=27
R6 N006 N004 242.3K
I1 8 5 1.9µ load
G2 8 N003 N008 3 2.33µ
G1 8 N002 N008 3 2.33µ
R1 8 N001 450K
R8 N009 1 .7
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 8m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
G5 N010 0 N008 3 table(0 3m 1 0)
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.95 Vh=1m trise=2m
D2 5 3 A
D4 3 5 B
C4 8 N002 1p Rser=.8G
C6 2 3 10p
G4 0 N010 8 3 table(2.1 3m 10 3.6m)
C8 8 N003 500p Rser=.42G Rpar=8.6G
.model PN PNP(BF=25 Cje=500p Cjc=500p TF=20n)
.model NA NPN(BF=500K Cje=.1p Cjc=.1p Re=40)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.1)
.model B D(Ron=3 Vrev=7.05 Vfwd=.6)
.ends LT1521
